US09326987B2
2-[(2R,6S)-2,6-Dimethyl-4-morpholinyl]acetohydrazide
Methyl [(2R,6S)-2,6-dimethyl-4-morpholinyl]acetate (5.05 g, 27.0 mmol, see Journal of Fluorine Chemistry (1998) 193-201 for literature preparation) was dissolved in methanol (20 ml) and hydrazine hydrate (2.013 ml, 27.0 mmol) added. The reaction mixture was heated to 70° C. for 18 h. The solvent was partially concentrated in vacuo to remove the methanol and extracted with ethyl acetate (3×20 ml). The combined organic layers were dried and concentrated to afford the title compound as a yellow solid (3.35 g).

reactant | Methyl [(2R,6S)-2,6-dimethyl-4-morpholinyl]acetate | 27.0 mmol, 5.05 g | C[C@@H]1CN(C[C@@H](O1)C)CC(=O)OC | C9H17NO3
reactant | hydrazine hydrate | 27.0 mmol, 2.013 ml | O.NN
solvent | methanol | 20 ml | CO | CH4O
product | 2-[(2R,6S)-2,6-Dimethyl-4-morpholinyl]acetohydrazide | 3.35 g | C[C@@H]1CN(C[C@@H](O1)C)CC(=O)NN | C8H17N3O2
